US05482948
b) 6-(4-acetylaminophenyl)-6-(3-pyridyl)hex-5-enoic acid
To a suspension of 307 g of 4-carboxybutyltriphenylphosphonium bromide and 233 g of potassium tert.butoxide in 2.8 liters of tetrahydrofuran are added, at -40° C., 140 g of 4-acetylaminophenyl-3-pyridyl-ketone and this mixture is stirred for 2 hours. The reaction mixture is decomposed by the addition of ice water and evaporated down. The residue is taken up in water and washed with ethyl acetate. The aqueous phase is acidified to pH 5 to 6 and extracted with ethyl acetate. The organic phase is concentrated by evaporation and the residue is recrystallised from ethyl acetate/diisopropylether.

reactant | 4-carboxybutyltriphenylphosphonium bromide | 307 g | [Br-].C(=O)(O)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert.butoxide | 233 g | CC(C)([O-])C.[K+]
reactant | 4-acetylaminophenyl-3-pyridyl-ketone | 140 g | C(C)(=O)NC1=CC=C(C=C1)C1=NC=CC=C1C(=O)C=1C(=NC=CC1)C1=CC=C(C=C1)NC(C)=O | C27H22N4O3
solvent | tetrahydrofuran | 2.8 liters | O1CCCC1 | C4H8O
product | 6-(4-acetylaminophenyl)-6-(3-pyridyl)hex-5-enoic acid | C(C)(=O)NC1=CC=C(C=C1)C(=CCCCC(=O)O)C=1C=NC=CC1 | C19H20N2O3
